US07547691B2
2-{5-Bromo-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride
Using the method of 2-{5-fluoro-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-[5-bromo-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide and isolated as a yellow solid. ES+(m/z) 502 (79Br) and 504 (81Br) [M(free base)+H].

reactant | 2-{5-fluoro-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2F)NCCCC2CCN(CC2)C
reactant | 2-[5-bromo-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCCC2CCNCC2 | C22H26BrN5OS
product | 2-{5-Bromo-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride | Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCCC2CCN(CC2)C | InChI=1S/C23H28BrN5OS.2ClH/c1-25-22(30)16-6-3-7-19-17(16)13-20(31-19)21-18(24)14-27-23(28-21)26-10-4-5-15-8-11-29(2)12-9-15;;/h3,6-7,13-15H,4-5,8-12H2,1-2H3,(H,25,30)(H,26,27,28);2*1H
